US04472305
Condensation of BocDPro-Phe-PheNHNH2 (0.932 g.) and HGly-Leu-MetNH2 hydrochloride salt (Example 7, 0.630 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocDPro-Phe-Phe-Gly-Leu-MetNH2 in 58% yield. De-t-butoxycarbonylation of BocDPro-Phe-Phe-Gly-Leu-MetNH2 (0.838 g.) using hydrogen chloride in acetic acid gave HDPro-Phe-Phe-Gly-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) salt sesquihydrate in 72% yield.

reactant | BocDPro-Phe-Phe-Gly-Leu-MetNH2 | 0.838 g | N1([C@@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C41H59N7O8S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HDPro-Phe-Phe-Gly-Leu-MetNH2 | N1[C@@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1 | C36H51N7O6S
